Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine / Lidocaine Hcl (Antiarr)
 
Attending: ___
 
Chief Complaint:
Really depressed at times.  

 
Major Surgical or Invasive Procedure:
ECT

 
History of Present Illness:
___ yo F, hx BPAD, currently c/o depressive sxs of decreased 
energy, concentration, sleep, and low mood. She denies current 
suicidal plan or intent, but notes thoughts to "fall off my 
balcony," or OD on "medications and go lay in my ja___." She 
further notes guilt that she has been less active in her ADL's 
and civic activities. She has been admitted to ___ Partial 
Hospital program, which she has been attending for several 
weeks.
.
She hoped that participation in that program would have helped 
her to decrease the medications that she was on prior to 
engaging in that program.  However, she notes that since 
starting her regimen has increased even further.  She is hopeful 
that a trial of ECT will be helpful for her.  She shares that 
she had a past good result from ECT in ___, when she was 
admitted during a depressive episode, but was subesequently able 
to return to work.
.
The patients' psychiatrist and family, are aware of this planned 
treatment.
 
Past Medical History:
PSYCHIATRIC HISTORY 
Psychiatrist: ___ ___ QMonth.
Therapist: ___.  
Multiple pst hospitalizations in youth.  2 hospitalizations in
last ___ years. 
Past suicide attempts by OD.  
Reports last manic episode, one year ago. 
Mx past medication trials (OMR ___ ___.
.
MEDICAL HISTORY
complex-partial seizure disorder secondary generalization, last 
seizure episode, ___.  
___ syndrome.  Left parietal AVM.
OSA- refuses to use CPAP or BPAP at home
Mitral valve prolapse
S/p appendectomy
S/p inguinal hernia repair
Uterine fibroids
No known h/o head injuries.
 
Social History:
___
Family History:
- Brother, mother, sister (now deceased) all with AVM’s 
___ sx)
- Brother w/multiple colon polyps, s/p Whipple
- Mom deceased from metastatic colon CA
-Brother with seizures 
-No psychiatric family history

 
Physical Exam:
 Vitals: T97.1 ___  BP100/62  RR20
Physical Exam: non-remarkable
MSE: APPEARANCE & FACIAL EXPRESSION:  Flat. Laying on bed, with
minimal pma.   Average grooming.  ATTITUDE: Mostly cooperative.  
 SPEECH: normal r/t/v  MOOD: "fair"  AFFECT: limited range, 
mostly flat.  THOUGHT FORM: Mostly linear THOUGHT CONTENT: 
Reports belief something may have crossed the
floor of her room, because one of her cats jumped off the bed to 
___ something.  ABNORMAL PERCEPTIONS: Notes AH of noises, she 
had believed to emanate from her cat, but does not believes 
these were corroborated by friends.  None noted at this time.  
SUICIDALITY/HOMICIDALITY: Thoughts, denies intent and plan See 
HPI.  INSIGHT AND JUDGMENT: fair. 
     COGNITIVE ASSESSMENT:   SENSORIUM (E.G., ALERT, DROWSY, 
SOMNOLENT): Alert ORIENTATION: ___ ___ after long pause.  
ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): MOYB intact. MEMORY 
(SHORT- AND ___ at 5 mins    CALCULATIONS: not tested 
FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): fair

 
Pertinent Results:
___ 02:15PM BLOOD WBC-8.6 RBC-4.05* Hgb-11.3* Hct-34.4* 
MCV-85 MCH-28.0 MCHC-33.0 RDW-16.6* Plt ___
___ 02:15PM BLOOD Neuts-51.6 Lymphs-42.4* Monos-5.2 Eos-0.4 
Baso-0.4
___ 02:15PM BLOOD Glucose-116* UreaN-12 Creat-1.0 Na-141 
K-3.9 Cl-111* HCO3-23 AnGap-11
___ 07:15AM BLOOD ALT-14 AST-15 AlkPhos-83 TotBili-0.2
___ 07:15AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.2
___ 07:15AM BLOOD VitB12-849 Folate-6.4
___ 07:15AM BLOOD TSH-1.6
___ 07:15AM BLOOD HCG-<5
___ 02:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 01:55PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:55PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
EKG
Sinus rhythm. Diffuse non-diagnostic T wave flattening. Compared 
to the 
previous tracing of ___ no major change. 
Rate PR  QRS QT/QTc  P  QRS T 
90   126 78  356/408 57 44  142 
CKR-No acute cardiopulmonary process.
 

 
Brief Hospital Course:
1)Psychiatric
The patient presented appearing very flat, depressed, and 
psychomotor delayed.  After her first ECT, she began to smile 
and her affect was less restricted. She expressed wishes to 
complete ECT as an outpatient.  Due to her multiple medical 
problems, including seizure disorder and arterial-venous 
malformation, it was determined the patient should be monitored 
for at least 3 ECT treatments prior to completing ECT as an 
outpatient.  The patient tolerated her first ECT treatments 
well.  She had minimal confusion after treatments.  Ocassionally 
she had headaches and muscle aches which responded well to pain 
medications (ibuprofen, acetominophen, and torodol).  The 
patient particiapted in individual, group, milieu therapy.  Dr. 
___ Dr. ___ agreeable with the patient 
receiving ECT as an outpatient.  The patient agreed to not drive 
until 2 weeks after her last ECT treatment.  She was told that 
she should not make any major decision while recieving ECT.  She 
agreed to be under supervision until supper time on days of ECT. 
 She also understood that she should not eat or drink after 
midnight on nights prior to ECT and days prior to ECT.  

Most of the patient's outpatient medications were continued 
during this hospitalization.  Klonopin and Depakote had been 
discontinued prior to admission to help the patient have 
seizures.  Her Zonegran was continued, per neurology request, 
during this hospitalization but given after ECT treatments (the 
patient's neurologist was consulted and agreed with this plan). 
Risperdal was discontinued given that the patient reported that 
she did not find it helpful.  At discharge the patient appears 
safe and appropriate to recieve ECT as an outpatient.  No signs 
or symptoms of mania noted.
.
2)Medical-
The medical team and the anesthesiology service were consulted 
to clear the patient for ECT.  Pulmonology sleep disorder 
clinician was also consulted given the patient's history of 
obstructive sleep apnea.  The sleep order clinician stated that 
the patient should be encouraged to wear the CPAP but that if 
she refused it was not a contra-indication to ECT.  The patient 
was medically cleared to participate in ECT.  During the course 
of ECT, she tried to use the CPAP machine but often took it off 
because it felt uncomfortable.  She refused to have a CPAP 
mahcine sent home with her stating that she would not use it and 
that it would likely get full of cat hair.  She refused to 
follow up with a sleep disorder specialist after discharge.  
There were no other active medical issues during this 
hospitalization.
.
3)Legal- The patient signed in on a conditional voluntary basis.
 
Medications on Admission:
hydroxyzine, klonopin, seroquel, risperdal, prozac, cogentin, 
prazosin, zonegram, depakote
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for fever/pain.  
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed.  
3. Zonisamide 100 mg Capsule Sig: Three (3) Capsule PO DAILY 
(Daily).
Disp:*0 Capsule(s)* Refills:*0*
4. Prazosin 1 mg Capsule Sig: Three (3) Capsule PO HS (at 
bedtime).
Disp:*0 Capsule(s)* Refills:*0*
5. Quetiapine 200 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime).
Disp:*0 Tablet(s)* Refills:*0*
6. Fluoxetine 20 mg Tablet Sig: Two (2) Capsule PO DAILY 
(Daily).
Disp:*0 Capsule(s)* Refills:*0*
7. Quetiapine 50 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for anxiety, agitation.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Bipolar Affective Disorder, depressed episode  
Axis II: deferred  
Axis III: seizure disorder, Obstructive Sleep apnea, uterine 
fibroids  
Axis IV: financial problems
Axis V: 50
 
Discharge Condition:
Good.  The patient appears safe and appropriate for discharge. 
MSE:  Patient ambulating thoughout unit. No PMR/PMA/other 
abnormal behaviors. Occassionally smiles. Apears alert and 
oriented Speech fluent, normal volume, tone, rate, no delay. 
Mood 'still kind of flat' Affect increased range although 
somewhat restricted still TP linear, goal-directed. TC Denies 
SI, HI, PI, AVH. I/J fair 

 
Discharge Instructions:
-Please report to your nearest emergency room or call ___ if 
you are having thoughts of harming yourself or other people. 
-As discussed with you on several ocassions, you should not 
drive until 2 weeks after your last ECT treatment.  You should 
not make any major decision while recieving ECT.  You should be 
under supervision until supper time on days of ECT.
-You should not eat or drink after midnight on nights prior to 
ECT and days prior to ECT.
 
Followup Instructions:
___